US06455520B1
N-{3-[3-(2-morpholinoethoxy)benzamido]-4-methylphenyl}quinoline-6-carboxamide
Using an analogous procedure to that described in Example 7 except that the reaction mixture was heated to 70° C. rather than 40° C., N-[3-(3-hydroxybenzamido)-4-methylphenyl]quinoline-6-carboxamide was reacted with 2-morpholinoethyl chloride to give the title compound in 41% yield, m.p. 216-217° C.; NMR Spectrum: (DMSOd6) 2.21 (s, 3H), 2.47 (m, 4H), 2.73 (t, 2H), 3.59 (t, 4H), 4.18 (t, 4H), 7.17 (m, 1H), 7.24 (d, 1H), 7.42 (t, 1H), 7.54 (s, 2H), 7,61 (m, 2H), 7.87 (s, 1H), 8.15 (d, 1H), 8.23 (m, 1H), 8.52 (m, 1H), 8.61 (s, 1H), 9.0 (d, 1H), 9.9 (s, 1H), 10.49 (s, 1H); Mass Spectrum: M+H+ 511.

reactant | N-[3-(3-hydroxybenzamido)-4-methylphenyl]quinoline-6-carboxamide | OC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C24H19N3O3
reactant | 2-morpholinoethyl chloride | O1CCN(CC1)CCCl | C6H12ClNO
product | N-{3-[3-(2-morpholinoethoxy)benzamido]-4-methylphenyl}quinoline-6-carboxamide | 41% yield | O1CCN(CC1)CCOC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C30H30N4O4
